US08455507B2
Method s: 5-iodo-1-methyl-1H-indazole
To 1-Methyl-1H-indazol-5-amine (500 mg, 3.40 mmol) in a mixture of concentrated sulfuric acid (1.3 ml) and water (5.5 ml) cooled down to 0° C., was added dropwise a solution of sodium nitrite (258 mg, 3.74 mmol) in water (0.5 ml). The reaction mixture was stirred at 0° C. for 10 minutes then added dropwise to a solution of sodium iodide (1.5 g) in water (4.5 ml) cooled to 0° C. After complete addition, the reaction mixture was heated to 90° C. for an additional 20 minutes. The resultant mixture was basified with a diluted solution of sodium hydroxide and extracted with ethylacetate. The organic phase was washed further with brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified on silica gel by flash column chromatography eluting with 20% EtOAc in petroleum ether to afford the title compound (475 mg, 54% yield). 1H NMR (DMSO D6, 400 MHz) 4.03 (3H, s), 7.52 (1H, d), 7.63 (1H, dd), 7.99 (1H, s), 8.17 (1H, s).

reactant | 1-Methyl-1H-indazol-5-amine | 3.40 mmol, 500 mg | CN1N=CC2=CC(=CC=C12)N | C8H9N3
reactant | sulfuric acid | 1.3 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 3.74 mmol, 258 mg | N(=O)[O-].[Na+]
reactant | sodium iodide | 1.5 g | [I-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 0.5 ml | O | H2O
solvent | water | 4.5 ml | O | H2O
solvent | water | 5.5 ml | O | H2O
product | 5-iodo-1-methyl-1H-indazole | 475 mg, 54% yield | IC=1C=C2C=NN(C2=CC1)C | C8H7IN2
